US07226926B2
A mixture of 4-fluoro-2-bromobenzonitrile (10.0 g, 50.0 mmol), potassium acetate (9.82 g, 100 mmol), bis(pinacolato)diboron (14.0 g, 55.0 mmol) and dichloro[1,1′-bis (diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.82 g, 1.0 mmol) in 1,4-dioxane (150 ml containing 3 ml dimethylsulfoxide) was degassed with nitrogen for 1 h then heated at 85° C. for 20 h. The reaction was cooled to ambient temperature and then concentrated in vacuo. The residue was stirred with 2N sodium hydroxide (250 ml) for 10 min then filtered. The filtrate was extracted with diethyl ether (300 ml) and the organics discarded. The aqueous component was cooled to 0° C. then treated with 5N hydrochloric acid added dropwise over 15 min until pH 8. The aqueous phase was extracted with ethyl acetate (2×200 ml), the combined organics were dried over anhydrous sodium sulfate, filtered and evaporated to afford 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (10.9 g, 88%) as a pale brown solid: δH (360 MHz, CDCl3) 1.38 (12H, s), 7.15-7.25 (1H, m), 7.53-7.60 (1H, m), 7.67-7.75 (1H, m).

reactant | 4-fluoro-2-bromobenzonitrile | 50.0 mmol, 10.0 g | FC1=CC(=C(C#N)C=C1)Br | C7H3BrFN
reactant | potassium acetate | 100 mmol, 9.82 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 55.0 mmol, 14.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis (diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 1.0 mmol, 0.82 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 10.9 g, 88% | FC1=CC(=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
